US08487093B2
Step 1: (2S,5R)-6-(Benzyloxy)-7-oxo-N-pyridin-4-yl-1,6-diazabicyclo[3.2.1]octane-2-carboxamide
To a solution of (2S,5R)-6-(phenylmethoxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxylic acid (51.5 mg, 0.186 mmol) in dry dichloromethane (5 mL) was added triethylamine (0.065 mL, 0.466 mmol), 2-chloro-1-methylpyridinium iodide (63.4 mg, 0.248 mmol), and 4-aminopyridine (19.2 mg, 0.204 mmol) sequentially at room temperature under nitrogen. The reaction was then heated to 50° C. for 1.5 hours. LC/MS showed reaction complete. The reaction mixture was concentrated and purified by HPLC on a 30×100 mm Waters Sunfire column to afford the title compound as an orange solid after lyophilization.

reactant | (2S,5R)-6-(phenylmethoxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxylic acid | 0.186 mmol, 51.5 mg | C1(=CC=CC=C1)CON1[C@@H]2CC[C@H](N(C1=O)C2)C(=O)O | C14H16N2O4
reactant | triethylamine | 0.466 mmol, 0.065 mL | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1-methylpyridinium iodide | 0.248 mmol, 63.4 mg | [I-].ClC1=[N+](C=CC=C1)C
reactant | 4-aminopyridine | 0.204 mmol, 19.2 mg | NC1=CC=NC=C1 | C5H6N2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (2S,5R)-6-(Benzyloxy)-7-oxo-N-pyridin-4-yl-1,6-diazabicyclo[3.2.1]octane-2-carboxamide | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C(=O)NC2=CC=NC=C2 | C19H20N4O3
